.SUBCKT irg4rc10ud 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Dec  3, 97
* MODEL FORMAT: SPICE3
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> C
*Node 2 -> G
*Node 3 -> E
M1 9 6 8 8 MSUB L=100u W=100u
* Default values used in MSUB:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RD=0 RS=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MSUB NMOS LEVEL=1
+VTO=5 KP=0.452005 LAMBDA=0 CGSO=2.65688e-06
RD 7 9 1e-06
RS 4 8 1e-06
Q1 4 7 1 QSUB OFF
D1 3 1 d4rc10u
.MODEL d4rc10u d
+IS=3.3719e-14 RS=96.5832 N=2 EG=1.3
+XTI=4 BV=600 IBV=0.00025 CJO=1e-11
+VJ=0.7 M=0.5 FC=0.5 TT=1e-09
+KF=0 AF=1
.MODEL QSUB PNP
+IS=1e-17 BF=10000 NF=1.30434 VAF=14.4194
+IKF=4252.95 ISE=1e-06 NE=3.71925 BR=0.999998
+NR=1.5 VAR=32.5359 IKR=1000 ISC=1.84807e-09
+NC=4 RB=0.0001 IRB=14.9301 RBM=0.0001
+RE=1e-08 RC=1e-08 XTB=50 XTI=0
+EG=0.5 CJC=3.79029e-10 VJC=0.879037 MJC=0.9
+CJE=7.58058e-09 VJE=33.4087 MJE=0.9 TF=1e-09
RDS 7 4 1e8
RER 4 3 0.100173
RG 6 2 2
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=5.11266e-10 VJ=0.4 M=0.9 FC=0.5
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 5.11266e-10
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
.ENDS irg4rc10ud
